US08431603B2
(1j) tert-Butyl {3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate
Dichloromethane (50 mL), triethylamine (0.3 mL, 2.15 mmol) and di-tert-butyl dicarbonate (375 mg and 1.72 mmol) were added in that order to 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine (500 mg, 1.43 mmol), and the mixture was stirred at room temperature for 22 hours. The solvent in the mixture was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=1/1 then 1/2) to obtain the title compound (511 mg, 1.14 mmol).

reactant | Dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | triethylamine | 2.15 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.72 mmol, 375 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine | 1.43 mmol, 500 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N | C16H19N3O4S
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | tert-Butyl {3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 1.14 mmol, 511 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)NC(OC(C)(C)C)=O | C21H27N3O6S
